US07442805B2
Synthesis of 1-benzyl-3-phenyl-5-({[4-(trifluoromethoxy)phenyl]sulfonyl}amino)-1H-indole-2-carboxylic acid
Ethyl 5-amino-1-benzyl-3-phenyl-1H-indole-2-carboxylate (0.23 g, 0.67 mmol) was dissolved in 7 mL of methylene chloride. To the solution was added diisopropylethylamine (0.5 mL, 2.9 mmol) and 4-trifluoromethoxy-benzenesulfonyl chloride (0.13 g, 0.5 mmol). After being stirred at room temperature overnight the reaction was concentrated and the residue was re-dissolved in 10 mL of 2:1:1 THF/MeOH/water. Lithium hydroxide monohydrate (0.15 g, 3.6 mmol) was added and the mixture was stirred at 40° C. overnight. Most of the organic solvents was removed and the reaction mixture was made acidic (pH 6) with glacial acetic acid, and the solid was collected and purified by semi-preparative HPLC (Column: Phenomenex C18 Luna 21.6 mm×60 mm, 5 μM; Solvent A: Water (0.1% TFA buffer); Solvent B: Acetonitrile (0.1% TFA buffer); Solvent Gradient: Time 0: 0% B; 10 min: 100% B; Hold 100% B 5 min. Flow Rate: 22.5 mL/min). The product was collected based on UV absorption and concentrated to give the title compound as a pale yellow solid (0.16 g, 45%):

reactant | Ethyl 5-amino-1-benzyl-3-phenyl-1H-indole-2-carboxylate | 0.67 mmol, 0.23 g | NC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C(=O)OCC)C1=CC=CC=C1 | C24H22N2O2
reactant | diisopropylethylamine | 2.9 mmol, 0.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-trifluoromethoxy-benzenesulfonyl chloride | 0.5 mmol, 0.13 g | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
reactant | Lithium hydroxide monohydrate | 3.6 mmol, 0.15 g | O.[OH-].[Li+]
solvent | methylene chloride | 7 mL | C(Cl)Cl | CH2Cl2
product | 1-benzyl-3-phenyl-5-({[4-(trifluoromethoxy)phenyl]sulfonyl}amino)-1H-indole-2-carboxylic acid | 0.16 g, 45% | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F)C1=CC=CC=C1)C(=O)O | C29H21F3N2O5S
